US06982348B2
7) (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(isopropyloxy)phenyl]-1-propanol
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-[3-(isopropyloxy)benzyl]-1,3-oxazolidin-2-one (5.85 g, 17.8 mmol) in ethanol (30 ml) was added 8N aqueous sodium hydroxide solution (8.9 ml, 71.0 mmol), and the mixture was heated under reflux for 5 hrs. The reaction solution-was concentrated under reduced pressure. To the solution was added water (100 ml) and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was crystallized from hexane-diethyl ether to give the objective substance (5.0 g, 93%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-[3-(isopropyloxy)benzyl]-1,3-oxazolidin-2-one | 17.8 mmol, 5.85 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C)C | C19H20FNO3
reactant | sodium hydroxide | 71.0 mmol, 8N, 8.9 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(isopropyloxy)phenyl]-1-propanol | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OC(C)C | C18H22FNO2
